US06166040
3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1-piperidinyl]-1-ethyl)-1,3-dihydro-2H-indol-2-one Monohydrochloride
3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one (0.6 g, 1.36 mmol) dissolved in ethanol (40 mls) and acetic acid (4 mls) was added to 10% platinum oxide/charcoal. Hydrogen was admitted for 12 h at 60 psi the catalyst was then removed by filtration, the catalyst washed with ethanol (3×75 mls), concentrated in vacuo and the resulting oil purified by column chromatography on silica with ethyl acetate/Hexane. The fractions containing product were collected and the solvent evaporated in vacuo to give a solid which was converted to the hydrochloride, which was subsequently dried in vacuo to give a solid, mp 172-174° C.

reactant | 3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1,2,5,6-tetrahydro-1-pyridyl]-1-ethyl}-1,3-dihydro-2H-indol-2-one | 1.36 mmol, 0.6 g | CC1(C(N(C2=CC=CC=C12)CCN1CC=C(CC1)C1=CNC2=C(C=CC=C12)F)=O)C | C25H26FN3O
reactant | acetic acid | 4 mls | C(C)(=O)O | C2H4O2
reactant | Hydrogen | [H][H] | H2
reactant | hydrochloride | Cl | ClH
solvent | ethanol | 40 mls | C(C)O | C2H6O
catalyst | platinum oxide charcoal | [Pt]=O.C
product | 3,3-Dimethyl-1-{2-[4-(7-fluoroindol-3-yl)-1-piperidinyl]-1-ethyl)-1,3-dihydro-2H-indol-2-one Monohydrochloride | Cl.CC1(C(N(C2=CC=CC=C12)CCN1CCC(CC1)C1=CNC2=C(C=CC=C12)F)=O)C | InChI=1S/C25H28FN3O.ClH/c1-25(2)20-7-3-4-9-22(20)29(24(25)30)15-14-28-12-10-17(11-13-28)19-16-27-23-18(19)6-5-8-21(23)26;/h3-9,16-17,27H,10-15H2,1-2H3;1H
